US07071180B2
Step 1. 2-Chloro-5,6-dimethyl-3-(1-piperazinyl)pyrazine.
The title compound was prepared according, to the procedure described in Example 90. Step 1, starting from 2,3-dichloro-5,6-dimethylpyrazine*(0.60 g, 3.39 mmol) and piperazine (0.88 g, 10.2 mmol). Yield 0.51 g (66%). MS m/z 226 (M)+.

reactant | 2,3-dichloro-5,6-dimethylpyrazine | ClC1=NC(=C(N=C1Cl)C)C | C6H6Cl2N2
reactant | piperazine | 10.2 mmol, 0.88 g | N1CCNCC1 | C4H10N2
product | 2-Chloro-5,6-dimethyl-3-(1-piperazinyl)pyrazine | ClC1=NC(=C(N=C1N1CCNCC1)C)C | C10H15ClN4
